US08541588B2
tert-Butyl [(4-{2-[2-(azetidin-1-ylmethyl)pyridin-4-yl]-4-chlorophenoxy}-2,5-difluorophenyl)sulfonyl]1,3-thiazol-4-ylcarbamate
tert-Butyl ({4-[4-chloro-2-(2-formylpyridin-4-yl)phenoxy]-2,5-difluorophenyl}sulfonyl)1,3-thiazol-4-ylcarbamate, (Preparation 879, 0.36 g, 0.00059 mol) was dissolved in dichloromethane (3 mL) then azetidine hydrochloride (0.083 g, 0.00089 mol) was added and reaction allowed to stir at room temperature for 30 minutes. Sodium triacetoxyborohydride (0.144 g, 0.00068 mol) was added and the reaction stirred at room temperature for 18 hours. Saturated aqueous sodium bicarbonate solution (5 mL) was added and the reaction stirred for 30 minutes. The reaction was then passed through a phase separation cartridge and the isolated dichloromethane layer concentrated in vacuo to give the desired product as an orange foam (0.325 g.

reactant | tert-Butyl ({4-[4-chloro-2-(2-formylpyridin-4-yl)phenoxy]-2,5-difluorophenyl}sulfonyl)1,3-thiazol-4-ylcarbamate | ClC1=CC(=C(OC2=CC(=C(C=C2F)S(=O)(=O)N(C(OC(C)(C)C)=O)C=2N=CSC2)F)C=C1)C1=CC(=NC=C1)C=O | C26H20ClF2N3O6S2
reactant | azetidine hydrochloride | 0.00089 mol, 0.083 g | Cl.N1CCC1
reactant | Sodium triacetoxyborohydride | 0.00068 mol, 0.144 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium bicarbonate | 5 mL | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | tert-Butyl [(4-{2-[2-(azetidin-1-ylmethyl)pyridin-4-yl]-4-chlorophenoxy}-2,5-difluorophenyl)sulfonyl]1,3-thiazol-4-ylcarbamate | N1(CCC1)CC1=NC=CC(=C1)C1=C(OC2=CC(=C(C=C2F)S(=O)(=O)N(C(OC(C)(C)C)=O)C=2N=CSC2)F)C=CC(=C1)Cl | C29H27ClF2N4O5S2
